US06277989B1
Synthesis of 2-Phenyl-4-(3-methoxyanilinyl) Quinazoline
4-Chloro-2-phenylquinazoline, 2 equivalents, 3-methoxyanilinyl, 2 equivalents, and potassium carbonate, 2 equivalents, were dissolved in 10 mL isopropanol and refluxed for 2 hours. The precipitated product formed was filtered and washed with water. Recrystallization from methanol provided the product as a white solid that was found to be homogenous by thin layer chromatography (TLC) and confirmed by EIMS.

reactant | 4-Chloro-2-phenylquinazoline | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 2-Phenyl-4-(3-methoxyanilinyl) Quinazoline | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=N1)NC1=CC(=CC=C1)OC | C21H17N3O
